US06573273B1
tert-butyl 3-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propylcarbamate (˜-80 g) was dissolved in 1,4-dioxane (400 mL) with gentle heating. Hydrochloric acid (55 mL of 4.0 M in 1,4-dioxane) was added in a single portion and the reaction was heated to reflux. The reaction was monitored by HPLC. Additional acid (150-200 mL) was added and the reaction mixture was refluxed until the reaction was complete. The reaction mixture was cooled to ambient temperature. A solid was isolated by filtration to give ˜72 g of 3-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propylamine hydrochloride. This material was combined with that from a previous experiment and then dissolved in water (400 mL). The solution was neutralized with solid potassium carbonate. At pH 7 a solid precipitated. The solid was isolated by filtration and then dissolved in water (1500 mL). The pH was adjusted to pH 10 with solid potassium carbonate. The solution was extracted with chloroform until HPLC analysis showed that no amine remained in the aqueous layer. The organic layers were combined and then concentrated under reduced pressure to provide 45 g of 3-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propylamine.

reactant | tert-butyl 3-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propylcarbamate | ˜-80 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCNC(OC(C)(C)C)=O | C22H30N4O2
reactant | Hydrochloric acid | 4.0 M, 55 mL | Cl | ClH
solvent | 1,4-dioxane | 400 mL | O1CCOCC1 | C4H8O2
product | 3-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propylamine hydrochloride | ˜72 g | Cl.C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCN | InChI=1S/C17H22N4.ClH/c1-2-3-9-16-20-15-12-19-14-8-5-4-7-13(14)17(15)21(16)11-6-10-18;/h4-5,7-8,12H,2-3,6,9-11,18H2,1H3;1H
